US07001897B2
To a solution of 1-(4-{N-[2-(t-butyldimethylsilyloxy)ethyl]-N-isopropyl-carbamoyl}-1,3-thiazol-2-yl)-3-methanesulfonyloxyazetidine (649 mg, 1.35 mmol) (obtained as described in Reference Example 59(4)) in dimethylformamide (19 ml) was added potassium thioacetate (930 mg, 8.14 mmol) at room temperature. The mixture was stirred in an oil bath (90° C.) for 3 hours. After checking the completion of the reaction, the reaction mixture was partitioned between ethyl acetate and 10% aqueous sodium chloride solution. The organic layer was washed successively with saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using hexane:ethyl acetate (3:1) ethyl acetate as the eluant to afford 3-acetylthio-1-(4-{N-[2-(t-butyldimethylsilyloxy)-ethyl]-N-isopropyl-carbamoyl}-1,3-thiazol-2-yl)azetidine (618 mg, yield 100%) as a pale brown solid.

reactant | 1-(4-{N-[2-(t-butyldimethylsilyloxy)ethyl]-N-isopropyl-carbamoyl}-1,3-thiazol-2-yl)-3-methanesulfonyloxyazetidine | 1.35 mmol, 649 mg | [Si](C)(C)(C(C)(C)C)OCCN(C(=O)C=1N=C(SC1)N1CC(C1)OS(=O)(=O)C)C(C)C | C19H35N3O5S2Si
reactant | potassium thioacetate | 8.14 mmol, 930 mg | C(C)(=S)[O-].[K+]
solvent | dimethylformamide | 19 ml | CN(C=O)C | C3H7NO
product | 3-acetylthio-1-(4-{N-[2-(t-butyldimethylsilyloxy)-ethyl]-N-isopropyl-carbamoyl}-1,3-thiazol-2-yl)azetidine | 618 mg, yield 100% | C(C)(=O)SC1CN(C1)C=1SC=C(N1)C(N(C(C)C)CCO[Si](C)(C)C(C)(C)C)=O | C20H35N3O3S2Si
